US07390923B2
(2S)-3-(4-Cyano-3-fluorophenoxy)-2-hydroxy-2-methyl-N-(3-methyl-4-nitrophenyl)propionamide was prepared as described in Example 3 starting from 2-fluoro-4-hydroxybenzonitrile and (2R)-3-bromo-2-hydroxy-2-methyl-N-(3-methyl-4-nitrophenyl)propionamide according to the following procedure. A solution of 2-fluoro-4-hydroxybenzonitrile (0.2 g, 1.4 mmol), (2R)-3-bromo-2-hydroxy-2-methyl-N-(3-methyl-4-nitrophenyl)propionamide (0.37 g, 1.2 mmol), K2CO3 (0.34 g, 2.5 mmol) and benzyltriethylammonium chloride (0.028 g, 0.1 mmol) in methyl ethyl ketone (40 ml) was refluxed for 5 hours. The mixture was cooled to the room temperature and evaporated. The residue was partitioned between ethyl acetate (50 ml) and water (50 ml) and the phases were separated. The organic phase was washed with 1 M Na2CO3 (4×20 ml) and water (1×20 ml), dried over Na2SO4 and evaporated. The crude product was purified by flash chromatography (eluent CH2Cl2). 1H NMR (DMSO-d6): 1.46 (3H, s), 2.53 (3H, s), 4.11 (1H, d, J=10.1 Hz), 4.371 (1H, d, J=10.1 Hz), 6.33 (1H, bs), 6.96 (1H, m), 7.18 (1H, m), 7.80 (1H, m), 7.88 (1H, dd, J=9.0 Hz and 2.1 Hz), 7.91 (1H, d, J=2.1 Hz), 8.03 (1H, d, J=9.0 Hz) 10.21 (1H, s).

reactant | 2-fluoro-4-hydroxybenzonitrile | FC1=C(C#N)C=CC(=C1)O | C7H4FNO
reactant | (2R)-3-bromo-2-hydroxy-2-methyl-N-(3-methyl-4-nitrophenyl)propionamide | BrC[C@](C(=O)NC1=CC(=C(C=C1)[N+](=O)[O-])C)(C)O | C11H13BrN2O4
reactant | 2-fluoro-4-hydroxybenzonitrile | 1.4 mmol, 0.2 g | FC1=C(C#N)C=CC(=C1)O | C7H4FNO
reactant | (2R)-3-bromo-2-hydroxy-2-methyl-N-(3-methyl-4-nitrophenyl)propionamide | 1.2 mmol, 0.37 g | BrC[C@](C(=O)NC1=CC(=C(C=C1)[N+](=O)[O-])C)(C)O | C11H13BrN2O4
reactant | K2CO3 | 2.5 mmol, 0.34 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | benzyltriethylammonium chloride | 0.1 mmol, 0.028 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | methyl ethyl ketone | 40 ml | C(C)C(=O)C | C4H8O
product | (2S)-3-(4-Cyano-3-fluorophenoxy)-2-hydroxy-2-methyl-N-(3-methyl-4-nitrophenyl)propionamide | C(#N)C1=C(C=C(OC[C@](C(=O)NC2=CC(=C(C=C2)[N+](=O)[O-])C)(C)O)C=C1)F | C18H16FN3O5
